US05646173
A solution of 12.3 g of 5,6-dichloro-1-indanone, 12.6 ml of 3-buten-2-ol and 125 mg of p-toluenesulfonic acid in 125 ml of 2,2-dimethoxy-propane was boiled under reflux for 68 hours on a water separator filled with molecular sieve (0.4 nm, 2 mm pearl shaped). The reaction mixture was subsequently concentrated in a vacuum and purified by column chromatography on silica gel (hexane/diethyl ether 4:1). In addition to 4.3 g of educt, there were obtained 10.8 g (69%) of (RS)-2-(2-buten-1-yl)-5,6-dichloro-1-indanone as a yellow oil.

reactant | 5,6-dichloro-1-indanone | 12.3 g | ClC=1C=C2CCC(C2=CC1Cl)=O | C9H6Cl2O
reactant | 3-buten-2-ol | 12.6 ml | CC(C=C)O | C4H8O
reactant | p-toluenesulfonic acid | 125 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | 2,2-dimethoxy-propane | 125 ml | COC(C)(C)OC | C5H12O2
product | (RS)-2-(2-buten-1-yl)-5,6-dichloro-1-indanone | 10.8 g, 69% | C(C=CC)C1C(C2=CC(=C(C=C2C1)Cl)Cl)=O | C13H12Cl2O
